Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine / morphine / Demerol / junipar ___
 
Attending: ___
 
Chief Complaint:
abnormal labs, weakness
 
Major Surgical or Invasive Procedure:
 None 

 
History of Present Illness:
Ms. ___ is an ___ female
with past medical history of HTN, HLD, CAD (s/p ))stents in
___, paroxysmal A. fib on Eliquis, and pacemaker for
bradycardia who presents with weakness and finding of elevated 
CK
on outpatient labs.

Ms. ___ was first seen on ___ by Atrius PCP for severe
fatigue and sleepiness of ___ days's duration. At that time she
and her daughter reported that she was sleeping most of the day
and night. She endorsed associated lack of appetite but no
urinary symptoms. Labs drawn and notable for a sodium of 132,
pyuria on UA and a urine culture on ___ that grew pan-sensitive
E. coli. She was seen again on ___ with new extreme fatigue
since starting ciprofloxacin. She was found to have ___ hip
strength on exam ___. CK was sent by PCP given concern for PMR. 

CK was found to be 5279 and patient was called to present to the
ED.

In the ED vitals were within normal limits, peak SBP of 135,
though patient did have an isolated blood pressure reading of
98/74. Labs notable for an INR of 1.6, ALT 318, AST 406, CK 
7799,
MB 122, MBI 1.6, creatinine 1.5, troponin T 0.22 ->  0.16 UA 
with
large blood, trace protein, few bact.  Patient given 2 L of NS,
ASA 324 mg.  CK on recheck after fluid 5 hours later 
down-trended
to 5492 with resultant improvement in creatinine to 1.3.

On arrival to the floor, patient corroborates the above history. 

She is currently feeling "great" and denies current or past 
chest
pain, palpitations, shortness of breath, abdominal pain,
myalgias, thigh pain or weakness.  She states that since taking
ciprofloxacin her main symptoms were extreme fatigue as above 
and
difficulty lifting both legs.  She states that yesterday she
couldn't even lift her legs 'at all'.

 
Past Medical History:
Paroxysmal A. fib
Vaginal high risk HPV
MGUS
Ductal carcinoma of the left breast, breast cancer with
metastases to axillary lymph node
Pulmonary nodule
CKD 3
Essential hypertension
Hyperlipidemia
 
Social History:
___
Family History:
Colon cancer in her son. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: Temp 97.3 BP 111 / 88 HR 65 RR 18 SaO2 99%RA
GENERAL: Well-appearing older woman in no distress. 
Conversational.  AAO ×3
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric. 4-/strength hip flexors b/l. ___ strength to flexion,
extension at the elbows. ___ strength abduction and abduction of
shoulders.
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
========================
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, normal S1/S2, ___ systolic murmur best hear at mitral
listening area. No gallops or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric. ___ strength in all 4 extremities.
DERM: Warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:36PM BLOOD WBC-7.7 RBC-3.57* Hgb-11.6 Hct-35.5 
MCV-99* MCH-32.5* MCHC-32.7 RDW-13.4 RDWSD-49.2* Plt ___
___ 09:36PM BLOOD Neuts-78.1* Lymphs-10.9* Monos-7.9 
Eos-1.6 Baso-0.3 Im ___ AbsNeut-6.01 AbsLymp-0.84* 
AbsMono-0.61 AbsEos-0.12 AbsBaso-0.02
___ 09:36PM BLOOD ___ PTT-26.7 ___
___ 09:36PM BLOOD Glucose-127* UreaN-31* Creat-1.5* Na-138 
K-4.6 Cl-100 HCO3-22 AnGap-16
___ 09:36PM BLOOD ALT-318* AST-406* CK(CPK)-7799* 
AlkPhos-82 TotBili-0.6
___ 09:36PM BLOOD cTropnT-0.22*
___ 09:36PM BLOOD Albumin-3.7
___ 07:25AM BLOOD Albumin-2.7* Calcium-8.4 Phos-3.5 Mg-2.0
___ 07:25AM BLOOD TSH-5.9*
___ 01:35PM BLOOD T4-6.5
___ 07:25AM BLOOD CRP-16.3*

DISCHARGE LABS:
===============
___ 05:51AM BLOOD WBC-6.1 RBC-2.92* Hgb-9.4* Hct-29.2* 
MCV-100* MCH-32.2* MCHC-32.2 RDW-13.4 RDWSD-49.1* Plt ___
___ 07:25AM BLOOD ___ PTT-25.1 ___
___ 05:51AM BLOOD Glucose-88 UreaN-22* Creat-1.3* Na-145 
K-4.5 Cl-110* HCO3-24 AnGap-11
___ 05:51AM BLOOD ALT-241* AST-270* CK(CPK)-3208* 
AlkPhos-66 TotBili-0.4
___ 05:51AM BLOOD cTropnT-0.14*
 
Brief Hospital Course:
___ year old woman with a history of HTN, HLD, CAD s/p stent 
placement ___, paroxysmal Afib on apixaban, s/p pacemaker 
placement for bradycardia who presented with weakness
and fatigue and elevated CK. 

ACTIVE ISSUES:
==============
# RHABDOMYOLYSIS 
Elevated to 7799 in the ED. Along with her elevated CK, she had 
elevated transaminases that likely also represent muscle injury. 
Unclear etiology. No evidence of increased exertion or heat 
stress. A rheumatologic cause was considered given elevated ESR 
at outpatient, but rheumatology believed this to be unlikely. 
She had a mildly elevated TSH with normal T4. Potentially in the 
setting of a drug reaction although she has stably been on her 
medications for a long time. She was recently given a course of 
ciprofloxacin, but this is not known to cause rhabdomylosis. She 
was given a total of 3L IVF with improvement in her CK, which 
had decreased to 3208 on the morning of discharge. 

# ___ on CKD 
She presented with a Cr of 1.5. This was likely in the setting 
of rhabdomyolysis and improved to her baseline with IV fluids. 

# NSTEMI
She presented with a troponin of 0.22 in the ED that slowly 
downtrended to 0.13 on the day of discharge. She had no chest 
pain. Cardiology saw her and believed that this was most likely 
demand ischemia in the setting of stress from her 
rhabdomyolysis. 

# TRANSAMINITIS 
Her AST and ALT were elevated, most likely in the setting of her 
rhabdomyolysis with muscle damage. They decreased at the time of 
discharge. 

CHRONIC/STABLE ISSUES:
======================
# PAROXYSMAL ATRIAL FIBRILLATION 
She was continued on metoprolol (fractionated) and her home 
apixaban. 

# BREAST CANCER 
S/p surgery and radiation. She was continued on tamoxifen.

#HTN, HLD, CAD
Her statin and ___ were held in the setting of rhabdomyolysis 
and ___. 

TRANSITIONAL ISSUES:
====================
[] Please repeat the patients CK, LFTs, and BMP given her 
presentation with rhabdomyolysis with ___. 
[] HOLDING the patient's statin and ___ in the setting of 
elevated LFTs and Cr. 
[] Please recheck her TSH in 6+ weeks given subclincal 
hypothyroidism (TSH 5.9, normal T4)

CODE: Full
CONTACT: ___ (daughter) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Tamoxifen Citrate 20 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. EpiPen (EPINEPHrine) 0.3 mg/0.3 mL injection PRN 
5. Losartan Potassium 25 mg PO DAILY 
6. Apixaban 2.5 mg PO BID 
7. flaxseed oil 1,000 mg oral DAILY 
8. Vitamin D 1000 UNIT PO DAILY 
9. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 2.5 mg PO BID  
2.  Aspirin 81 mg PO DAILY  
3.  EpiPen (EPINEPHrine) 0.3 mg/0.3 mL injection PRN  
4.  flaxseed oil 1,000 mg oral DAILY  
5.  Metoprolol Succinate XL 25 mg PO DAILY  
6.  Tamoxifen Citrate 20 mg PO DAILY  
7.  Vitamin D 1000 UNIT PO DAILY  
8. HELD- Atorvastatin 80 mg PO QPM  This medication was held. Do 
not restart Atorvastatin until seen by your PCP and your ___ 
are normal. 
9. HELD- Losartan Potassium 25 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until seen by your PCP 
and your labs are normal. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rhabdomyolysis 
Acute kidney injury 
NSTEMI 
Transaminitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure being involved in your care. 

Why you were hospitalized:
==========================
- You were tired and were found to have abnormal labs.

What happens in the hospital:
=============================
- You were found to have a condition called rhabdomyolysis which 
is caused by breakdown of muscles. 
- This caused a kidney injury.
- You were given IV fluids and this improved your kidney 
function. 

What you should do when you leave the hospital:
===============================================
- Do not take your statin until your labs have returned to 
normal. 
- Take all of your medications as described below. 
- Attend all of your follow up appointments as described below. 

We wish you the best!
Your ___ Team
 
Followup Instructions:
___